US05395941
Preparation of (4S)-1,4-dihydro-2,6-dimethyl-5-methoxymethyloxycarbonyl-4-(3-nitrophenyl )pyridine-3-carboxylic acid
To a solution of 3.6 mg of methoxymethyl (4S)-5-(2-cyanoethoxy-carbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylate in 0.25 ml of dioxane was added 0.1 ml of 1N aqueous sodium hydroxide solution. The mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with 5 ml of ethyl acetate, to which were added water and 0.1 ml of 1N aqueous hydrochloric acid. The resulting mixture was dried over anhydrous Glauber's salt (sodium sulfate), followed by distilling off the solvent under reduced pressure to obtain 2.6 mg of the objective compound.

reactant | methoxymethyl (4S)-5-(2-cyanoethoxy-carbonyl)-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3-carboxylate | 3.6 mg | C(#N)CCOC(=O)C=1[C@@H](C(=C(NC1C)C)C(=O)OCOC)C1=CC(=CC=C1)[N+](=O)[O-] | C20H21N3O7
reactant | sodium hydroxide | 1N, 0.1 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N, 0.1 ml | Cl | ClH
solvent | dioxane | 0.25 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (4S)-1,4-dihydro-2,6-dimethyl-5-methoxymethyloxycarbonyl-4-(3-nitrophenyl )pyridine-3-carboxylic acid | 2.6 mg | CC=1NC(=C([C@H](C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCOC)C | C17H18N2O7
